US06552068B1
7-Methoxy-3-(4-methoxyphenyl)-chromen-2-one (21.8 g) was mixed with pyridine hydrochloride (80 g) and stirred for 1 hour at a temperature of 190° C. to 200° C. Water was added to the reaction mixture and the resulting precipitates were collected by filtration and dried under reduced pressure to give 7-hydroxy-3-(4-hydroxyphenyl)-chromen-2-one (19.6 g, Yield 100%). Diisopropylethylamine (35 ml)in dimethylformamide (70 ml) and methoxymethyl chloride (10.4 ml) were added to a solution of 7-hydroxy-3-(4-hydroxyphenyl)-chromen-2-one thus prepared (8.74 g) followed by stirring for 2 hours at 80° C. After cooling, water was added to the reaction mixture and the resulting precipitates were collected by filtration and dried under reduced pressure to give 7-methoxymethoxy-3-(4-methoxymethoxyphenyl)chromen-2-one (8.67 g, Yield 74%).

reactant | 7-Methoxy-3-(4-methoxyphenyl)-chromen-2-one | 21.8 g | COC1=CC=C2C=C(C(OC2=C1)=O)C1=CC=C(C=C1)OC | C17H14O4
reactant | pyridine hydrochloride | 80 g | Cl.N1=CC=CC=C1
solvent | Water | O | H2O
product | 7-hydroxy-3-(4-hydroxyphenyl)-chromen-2-one | 19.6 g, Yield 100% | OC1=CC=C2C=C(C(OC2=C1)=O)C1=CC=C(C=C1)O | C15H10O4
